US06479436B1
2-(5-Nitroquinolin-8-yl)carbonylcyclohexane-1,3-dione
1.0 g of 5-nitro-8-quinolinecarboxylic acid together with 0.5 g of 1,3-cyclohexanedione and 1.0 g of dicyclohexylcarbodiimide were stirred in 15 ml of acetonitrile at room temperature for about 12 hours. 0.7 g of triethylamine and 0.2 ml of acetone cyanohydrin were then added. After 4 hours, the reaction solution was poured into aqueous sodium carbonate solution and extracted with ethyl acetate. The aqueous phase was acidified with hydrochloric acid and extracted with ethyl acetate. The organic phase was dried, the solvent was distilled off and the residue was chromatographed over silica gel.

reactant | 5-nitro-8-quinolinecarboxylic acid | 1.0 g | [N+](=O)([O-])C1=C2C=CC=NC2=C(C=C1)C(=O)O | C10H6N2O4
reactant | 1,3-cyclohexanedione | 0.5 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | dicyclohexylcarbodiimide | 1.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetone cyanohydrin | 0.2 ml | CC(C#N)(O)C | C4H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
product | 2-(5-Nitroquinolin-8-yl)carbonylcyclohexane-1,3-dione | [N+](=O)([O-])C1=C2C=CC=NC2=C(C=C1)C(=O)C1C(CCCC1=O)=O | C16H12N2O5
